US08937178B2
To a solution of crude 2,2,2-trifluoro-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide (16.5 g, 63.0 mmol) in MeOH (440 mL) and water (73 mL) was added K2CO3 (35.3 g, 25.5 mmol). The reaction mixture was stirred at reflux for 3 h, then concentrated under vacuum, diluted with water (50 mL), extracted with EtOAc (2×50 mL). The organics were washed with brine, dried over Na2SO4, and concentrated to obtain crude N,2-dimethylbenzo[d]oxazol-6-amine (8.3 g), (MS: ESI +ve, 163.12 [M+H]); 1H NMR: (400 MHz, DMSO) δ: 2.51 (s, 3H), 2.56 (s, 3H), 5.87-5.85 (m, 1H), 6.57-6.53 (m, 1H), 6.65-6.64 (d, J=2.4, 1H), 7.31-7.28 (t, 1H).

reactant | 2,2,2-trifluoro-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide | 63.0 mmol, 16.5 g | FC(C(=O)N(C1=CC2=C(N=C(O2)C)C=C1)C)(F)F | C11H9F3N2O2
reactant | K2CO3 | 25.5 mmol, 35.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 440 mL | CO | CH4O
solvent | water | 73 mL | O | H2O
product | N,2-dimethylbenzo[d]oxazol-6-amine | 8.3 g | CNC1=CC2=C(N=C(O2)C)C=C1 | C9H10N2O
